US09447090B2
To a solution of 250 mg of 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-piperidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride in 10 ml of methanol were added 157 μl of triethylamine, 300 mg of Molecular Sieves 3A, 323 μl of acetic acid, 1.53 ml of [(1-ethoxy cyclopropyl)oxy](trimethyl)silane, and 146 mg of sodium cyanoborohydride under ice-cooling, followed by stirring for 6 hours under heating to reflux. The insoluble material was removed by filtration and the filtrate was concentrated under reduced pressure. To the obtained residue were added saturated aqueous sodium bicarbonate and chloroform to carry out a layer separation operation. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography. To a mixture of the obtained purified product, ethyl acetate, and methanol was added a 4 M hydrogen chloride/ethyl acetate solution under ice-cooling, and the solvent was evaporated under reduced pressure. To the obtained residue was added ethyl acetate and hexane, followed by stirring. The resulting solid was collected by filtration and dried to obtain 136 mg of 8-(cyclohexylmethoxy)-N-[(3S)-1-cyclopropylpiperidin-3-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide dihydrochloride.

reactant | 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-piperidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride | 250 mg | Cl.Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H]2CNCCC2
reactant | triethylamine | 157 μl | C(C)N(CC)CC | C6H15N
reactant | [(1-ethoxy cyclopropyl)oxy](trimethyl)silane | 1.53 ml | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 146 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | acetic acid | 323 μl | C(C)(=O)O | C2H4O2
product | 8-(cyclohexylmethoxy)-N-[(3S)-1-cyclopropylpiperidin-3-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide dihydrochloride | 136 mg | Cl.Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H]2CN(CCC2)C2CC2 | InChI=1S/C24H34N4O2.2ClH/c1-17-22(24(29)26-19-9-5-13-27(15-19)20-11-12-20)28-14-6-10-21(23(28)25-17)30-16-18-7-3-2-4-8-18;;/h6,10,14,18-20H,2-5,7-9,11-13,15-16H2,1H3,(H,26,29);2*1H/t19-;;/m0../s1
